### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Laurent): Lifting maps to ring of Laurent polynomials

### PR DESCRIPTION
**Pull request by justus-springer**
This PR defines `LaurentPolynomial.eval₂` and provides basic API for it. This was mentioned unter "future work" in the comments.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by justus-springer** [comment]
The "large-import" label seems to be due to the fact that I changed `Laurent.isLocalization` to use the abbreviation `IsLocalization.Away` and therefore needed to import `RingTheory.Localization.Away.Basic`. This is not strictly needed and can be reverted if necessary.

**Comment by ScottCarnahan** [comment]
Two quick comments: (1) The map in question seems more like an `eval` than a `lift`, since you are evaluating a Laurent polynomial at a unit.  (2) Do you really need `S` to be commutative?

**Comment by justus-springer** [comment]
`S` needs to be commutative because `IsLocalization.lift` is only defined if all the rings involved are commutative. As for the name, I wasn't sure how to call it either, because it's a "lift of an eval", so I think both names would make sense. The thing with eval is that for standard polynomial rings, there are multiple different variants like `Polynomial.eval` (which goes `R → R[X]`), `Polynomial.eval₂` (`R[X] → S`) as well as `Polynomial.evalRingHom` (`R[X] →+* R`) and `Polynomial.eval₂RingHom` (`R[X] →+* S`). To fit in with that naming convention, I would have to call mine `LaurentPolynomial.eval₂RingHom`, which I didn't like because I don't have the other variants (and it wouldn't really make sense to have the non-RingHom variants, since `IsLocalization.lift` works natively with ring homs).

Admittedly, this is minor point and I would be okay with just calling it `LaurentPolynomial.eval`.

**Comment by ScottCarnahan** [comment]
Now that I think about it more, `lift` is fine. I have an `eval` PR under construction for less structured contexts.

File: Mathlib/Algebra/Polynomial/Laurent.lean [hunk 1]
```diff
@@ -512,6 +510,78 @@ theorem isLocalization : IsLocalization (Submonoid.powers (X : R[X])) R[T;T⁻¹
...
+  rw [mk'_eq 1 n, toLaurent_one, one_mul]
+
+theorem mk'_one_X : IsLocalization.mk' R[T;T⁻¹] 1
+  (⟨X,1,pow_one X⟩ : Submonoid.powers (X : R[X])) = T (-1) := by
+  convert mk'_one_X_pow 1
+  exact (pow_one X).symm
+
+/-- Given a ring homomorphism `f : R →+* S` and a unit `x` in `S`, the induced homomorphism
+`R[T;T⁻¹] →+* S` sending `T` to `x` and `T⁻¹` to `x⁻¹`. -/
+def eval₂ : R[T;T⁻¹] →+* S :=
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Laurent.lean:534]: I think there are three options here:

1. Take an argument `x : Units S`
2. Take arguments `x : S` and `hx : IsUnit x` (the current choice)
3. Take an argument `x : S` and use junk values when `x` is not a unit.

Option (1) gives the user good control over the inverse of `x`, and so we can get nice computation lemmas for the image of `T ^ (-n)`. But the price is that the user has to bundle things in to a term of type `Units`.

Option (3) means that the user doesn't have to worry about proof obligations while evaluating at `x`. But occasional lemmas might need `IsUnit x` as condition.

Option (2) seems to sit in the middle, meaning that the user has to always provide the proof obligation, without getting the benefit of good control about the inverse of `x`.

At the moment, I think my preference would be option (1), then (3), then (2).
What do you think?

Comment (justus-springer) [reply Mathlib/Algebra/Polynomial/Laurent.lean:534]: I agree that Option (1) is better.

File: Mathlib/Algebra/Polynomial/Laurent.lean [hunk 2]
```diff
@@ -512,6 +510,80 @@ theorem isLocalization : IsLocalization (Submonoid.powers (X : R[X])) R[T;T⁻¹
...
+
+@[simp]
+theorem eval₂_T_neg_n (n : ℕ) : eval₂ f x (T (-n)) = x⁻¹ ^ n := by
+  rw [←mk'_one_X_pow]
+  unfold eval₂
+  rw [IsLocalization.lift_mk'_spec, map_one, coe_eval₂RingHom, eval₂_X_pow, ←mul_pow,
+    Units.mul_inv, one_pow]
+
+theorem eval₂_T (n : ℤ) : eval₂ f x (T n) =
+  if (0 ≤ n) then (x ^ n.toNat) else (x⁻¹ ^ (-n).toNat) := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Laurent.lean:558]: It should now be possible to simplify this as follows, right?
```suggestion
theorem eval₂_T (n : ℤ) : eval₂ f x (T n) = x ^ n
```
And it would subsume the two lemmas above, so maybe this one can be `@[simp]` and the other two would be more of an implementation detail?
Or maybe you can even simplify the proof?

File: Mathlib/Algebra/Polynomial/Laurent.lean [hunk 3]
```diff
@@ -512,6 +510,80 @@ theorem isLocalization : IsLocalization (Submonoid.powers (X : R[X])) R[T;T⁻¹
...
+@[simp]
+theorem eval₂_C_mul_T_n (r : R) (n : ℕ) : eval₂ f x (C r * T n) = f r * x ^ n := by
+  rw [←Polynomial.toLaurent_C_mul_T, eval₂_toLaurent, eval₂_monomial]
+
+@[simp]
+theorem eval₂_C_mul_T_neg_n (r : R) (n : ℕ) : eval₂ f x (C r * T (-n)) =
+  f r * x⁻¹ ^ n := by rw [map_mul, eval₂_T_neg_n, eval₂_C]
+
+theorem eval₂_C_mul_T (r : R) (n : ℤ) : eval₂ f x (C r * T n) =
+  if (0 ≤ n) then f r * x ^ n.toNat else f r * x⁻¹ ^ (-n).toNat := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Laurent.lean:580]: A similar remark applies here.

File: Mathlib/Algebra/Polynomial/Laurent.lean (hunk 2 above)
Comment (justus-springer) [reply Mathlib/Algebra/Polynomial/Laurent.lean]: You're right, I don't need the if/else anymore and the proofs get a bit simpler. I still think the auxiliary lemmas above are useful though, as one still needs to split by cases on whether or not n is positive.

File: Mathlib/Algebra/Polynomial/Laurent.lean [hunk 4]
```diff
@@ -512,6 +510,77 @@ theorem isLocalization : IsLocalization (Submonoid.powers (X : R[X])) R[T;T⁻¹
...
+theorem mk'_eq (p : R[X]) (n : ℕ) : IsLocalization.mk' R[T;T⁻¹] p
+  (⟨X^n,n,rfl⟩ : Submonoid.powers (X : R[X])) = toLaurent p * T (-n) := by
+  rw [←IsUnit.mul_left_inj (isUnit_T n), mul_T_assoc, neg_add_cancel, T_zero, mul_one]
+  exact mk'_mul_T p n
+
+theorem mk'_one_X_pow (n : ℕ) : IsLocalization.mk' R[T;T⁻¹] 1
+  (⟨X^n,n,rfl⟩ : Submonoid.powers (X : R[X])) = T (-n) := by
+  rw [mk'_eq 1 n, toLaurent_one, one_mul]
+
+theorem mk'_one_X : IsLocalization.mk' R[T;T⁻¹] 1
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Laurent.lean:527]: These all seem like perfect simp lemmas.
Also, please add spaces after the commas inside anon constructors.

Otherwise, LGTM.


bors d+

**Comment by grunweg** [comment]
Hello @justus-springer, I'm coming here from PR triage. It looks like your PR is almost ready to go. I think it would be a shame for this PR to "strand" so shortly before merging. Do you have a moment to fix the build errors/ would you like help with something?

File: Mathlib/Algebra/Polynomial/Laurent.lean [hunk 5]
```diff
@@ -514,6 +512,81 @@ theorem isLocalization : IsLocalization (Submonoid.powers (X : R[X])) R[T;T⁻¹
       rintro rfl
       exact ⟨1, rfl⟩ }
 
+@[simp]
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/Laurent.lean:515]: If `simp` can prove this already, there's no need to tag it with simp again.
```suggestion

File: Mathlib/Algebra/Polynomial/Laurent.lean [hunk 6]
```diff
@@ -514,6 +512,81 @@ theorem isLocalization : IsLocalization (Submonoid.powers (X : R[X])) R[T;T⁻¹
...
+    toLaurent p := by
+  rw [←toLaurent_X_pow, ←algebraMap_eq_toLaurent, IsLocalization.mk'_spec, algebraMap_eq_toLaurent]
+
+@[simp]
+theorem mk'_eq (p : R[X]) (n : ℕ) : IsLocalization.mk' R[T;T⁻¹] p
+  (⟨X^n, n, rfl⟩ : Submonoid.powers (X : R[X])) = toLaurent p * T (-n) := by
+  rw [←IsUnit.mul_left_inj (isUnit_T n), mul_T_assoc, neg_add_cancel, T_zero, mul_one]
+  exact mk'_mul_T p n
+
+@[simp]
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/Laurent.lean:527]: Same here
```suggestion

**Review by grunweg — COMMENTED** [review]
I think these two suggestions should fix the build.

**Comment by justus-springer** [comment]
I think I just forgot hitting merge on this PR. Now that the build has passed, it should be ready.
